US04024271
By the procedure of Example 34, ethylenediamine is reacted with 2-chloroemethylpyrimidine, prepared by treating 2-hydroxymethylpyrimidine with thionyl chloride, to give N-(2-pyrimidylmethyl)ethylenediamine.

reactant | ethylenediamine | C(CN)N | C2H8N2
reactant | 2-hydroxymethylpyrimidine | OCC1=NC=CC=N1 | C5H6N2O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | N-(2-pyrimidylmethyl)ethylenediamine | N1=C(N=CC=C1)CNCCN | C7H12N4
